US07576102B2
4-{(R)-3-[4-(4-Chloro-phenoxy)-phenoxy]-pyrrolidin-1-yl}-butyric acid HCl:
4-{(R)-3-[4-(4-Chloro-phenoxy)-phenoxy]-pyrrolidin-1-yl}-butyric acid methyl ester (86.8 mg, 0.222 mmol) was taken into 1.029N NaOH solution in water (0.433 mL, 0.445 mmol), and methanol (2 mL). The reaction was sealed and heated to 60° C. and left to react for 24 h. The reaction was concentrated to dryness and taken into 4N HCl in dioxane (0.111 ml, 0.445 mmol) and dichloromethane (1 mL). The reaction was stirred for 15 minutes, and then concentrated to dryness. The residue was taken into dichloromethane and filtered through a syringe filter. The filtrate was then treated with excess 4N HCl in dioxane, stirred for 15 minutes and then concentrated to dryness. The crude product was purified by reverse phase semi-prep HPLC to obtain the title product (43 mg, 47%); LCMS; m/z 376 (M, free amine); 1H NMR (400 MHz, DMSO); δ 1.63-1.70 (m, 2H), 1.74-1.82 (m, 1H), 2.21-2.29 (m, 3H), 2.42-2.45 (m, 3H), 2.62-2.73 (m, 2H), 2.85-2.89 (m, 1H), 4.85 (s, 1H), 6.91-6.96 (m, 4H), 6.98-7.01 (m, 2H), 7.36-7.40 (m, 2H), 8.21 (s, 1H).

reactant | 4-{(R)-3-[4-(4-Chloro-phenoxy)-phenoxy]-pyrrolidin-1-yl}-butyric acid methyl ester | 0.222 mmol, 86.8 mg | COC(CCCN1C[C@@H](CC1)OC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C21H24ClNO4
reactant | NaOH | 1.029N | [OH-].[Na+]
reactant | water | 0.445 mmol, 0.433 mL | O | H2O
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 0.445 mmol, 0.111 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
product | 4-{(R)-3-[4-(4-Chloro-phenoxy)-phenoxy]-pyrrolidin-1-yl}-butyric acid HCl | 43 mg, 47% | Cl.ClC1=CC=C(OC2=CC=C(O[C@H]3CN(CC3)CCCC(=O)O)C=C2)C=C1 | InChI=1S/C20H22ClNO4.ClH/c21-15-3-5-16(6-4-15)25-17-7-9-18(10-8-17)26-19-11-13-22(14-19)12-1-2-20(23)24;/h3-10,19H,1-2,11-14H2,(H,23,24);1H/t19-;/m1./s1
